US04327101
3.13 g of ethyl 1-(2-fluoroethyl)-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate are suspended in 50 ml of ethanol, and 50 ml of an aqueous 2% sodium hydroxide solution are added thereto. The suspension is stirred at room temperature for 3 hours. Then, the reaction mixture is evaporated under reduced pressure to remove solvent, and the residue is adjusted to about pH 1 with 10% hydrochloric acid. The crystalline precipitates are collected by filtration, washed with water and then dried. 2.85 g of 1-(2-fluoroethyl)-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid are thereby obtained as crystalline powder. Yield: 100%

reactant | ethyl 1-(2-fluoroethyl)-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3.13 g | FCCN1C=C(C(C2=CC(=C(C(=C12)F)C)F)=O)C(=O)OCC | C15H14F3NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2-fluoroethyl)-6,8-difluoro-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 2.85 g, Yield: 100% | FCCN1C=C(C(C2=CC(=C(C(=C12)F)C)F)=O)C(=O)O | C13H10F3NO3
